US07220766B2
Step A: Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-(2,3-dihydro-1,4-benzodioxin-6-ylmethoxy)phenyl]propionate
2,3-Dihydro-1,4-benzodioxin-6-ylmethanol (0.25 g, 1.5 mmol), methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)-propionate (0.36 g, 1 mmol) and triphenylphosphine (0.79 g, 3 mmol) were dissolved in tetrahydrofuran (3 ml). After cooling to 5° C., DIAD (0.61 g, 3 mmol) was added to the reaction mixture. The reaction was then stirred at room temperature for 18–24 h. THF was evaporated to obtain crude title product.

reactant | 2,3-Dihydro-1,4-benzodioxin-6-ylmethanol | 1.5 mmol, 0.25 g | O1CCOC2=C1C=CC(=C2)CO | C9H10O3
reactant | methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-(4-hydroxyphenyl)-propionate | 1 mmol, 0.36 g | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)O)=O | C17H16N2O5S
reactant | triphenylphosphine | 3 mmol, 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 3 mmol, 0.61 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-(2,3-dihydro-1,4-benzodioxin-6-ylmethoxy)phenyl]propionate | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)OCC2=CC1=C(OCCO1)C=C2)=O | C26H24N2O7S
